### PR TITLE
[Merged by Bors] - feat(NumberTheory/NumberField/House): house is multiplicative on powers

### PR DESCRIPTION
**Pull request by mlgraham**
`house_pow_le` gives only `house (α ^ i) ≤ house α ^ i`. The equality holds: `house` is the maximum of `‖φ α‖` over the embeddings `φ : K →+* ℂ`, and `x ↦ x ^ i` is monotone on `ℝ≥0`, so the power commutes with the maximum.

I needed the equality rather than the bound in a descent argument, where a house bound on `α ^ k` has to transfer back to `α`.

The proof follows the existing `house_nat_mul` in the same file: rewrite both sides with `house_eq_sup'`, then push the monotone map through the `Finset.sup'`.

---

AI usage, per the contribution guidelines: I used Claude Code (Claude Opus 5) to find and write this proof, and it also drafted this description. I have reviewed the proof, understand the argument, and can justify the design choices without it.

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/House.lean [hunk 1]
```diff
@@ -61,6 +61,17 @@ theorem house_add_le (α β : K) : house (α + β) ≤ house α + house β := by
 theorem house_pow_le (α : K) (i : ℕ) : house (α ^ i) ≤ house α ^ i := by
```
Comment (plp127) [inline Mathlib/NumberTheory/NumberField/House.lean]: Would it be possible to ~~remove~~ deprecate `house_pow_le` and then only use `house_pow` now?

Comment (mlgraham) [reply Mathlib/NumberTheory/NumberField/House.lean]: Done — deprecated it in 633f9e6. It had no call sites in Mathlib, so it is now just `.le` of the equality.

File: Mathlib/NumberTheory/NumberField/House.lean [hunk 2]
```diff
@@ -58,8 +58,19 @@ lemma house_prod_le (s : Finset K) : house (∏ x ∈ s, x) ≤ ∏ x ∈ s, hou
...
+theorem house_pow (α : K) (i : ℕ) : house (α ^ i) = house α ^ i := by
+  have hmono : Monotone (fun x : NNReal => x ^ i) := fun a b h => pow_le_pow_left' h i
+  rw [house_eq_sup', house_eq_sup']
+  have h : (fun φ : K →+* ℂ ↦ ‖φ (α ^ i)‖₊)
+      = (fun x : NNReal ↦ x ^ i) ∘ (fun φ : K →+* ℂ ↦ ‖φ α‖₊) := by
+    funext φ
+    simp [map_pow, nnnorm_pow]
+  rw [h, ← Finset.apply_sup'_eq_sup'_comp _ _ fun x y ↦ hmono.map_max]
+  push_cast
+  rfl
```
Comment (felixpernegger) [inline Mathlib/NumberTheory/NumberField/House.lean]:
```suggestion
  simp_rw [house_eq_sup', map_pow, nnnorm_pow]
  rw [← Function.comp_def (· ^ i),
    ← Finset.apply_sup'_eq_sup'_comp _ _ fun _ _ ↦ (pow_left_mono (M := NNReal) i).map_max,
    NNReal.coe_pow]
```

Comment (mlgraham) [reply Mathlib/NumberTheory/NumberField/House.lean]: Applied in 2e70d77, with you as co-author — that is a good deal tidier than mine. Builds and lints clean.

**Comment by loefflerd** [comment]
LGTM, thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
